US04960912
4-Methoxyphenyl 4-methoxy-1-naphthyl sulfone (EPNS)
p-Methoxybenzenesulfonyl chloride, 2.0 mol, anhydrous stannic chloride, 2.25 mol, 1-methoxynaphthalene, 2.25 mol, and 3 l of o-dichlorobenzene were mixed at room temperature under nitrogen. The mixture was stirred at room temperature overnight (ca 7 hours needed) and decomposed with 3N hydrochloric acid. The organic layer was diluted with 1250 ml of nitromethane and washed with 2 portions of 1N hydrochloric acid followed by pure water. The organic layer was treated with magnesium sulfate, filtered, evaporated, extracted with hot toluene and dried at 120° c. for two hours to give 577 g, 88% yield, m.p. 160°-162° C.

reactant | p-Methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1-methoxynaphthalene | COC1=CC=CC2=CC=CC=C12 | C11H10O
reactant | o-dichlorobenzene | 3 l | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | nitromethane | 1250 ml | [N+](=O)([O-])C | CH3NO2
product | 4-Methoxyphenyl 4-methoxy-1-naphthyl sulfone | 88% yield | COC1=CC=C(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)OC | C18H16O4S
